US04906402
A solution of methyl 2-(4'-trimethylsilyloxyphenyl)ethanoate (34.3 mmole) in dimethoxyethane (10 ml) was added dropwise to the reaction, the temperature rising to -30° C. before cooling to -70° C. This cold reaction mix was added dropwise to a solution of methyliodide (0.16 mole) in dimethoxyethane (20 ml) cooled to -70° C. The mixture was stirred at room temperature overnight before removing the solvent by evaporation. The residue was stirred with dilute HCl and extracted with dichloromethane, washed with saturated NaHCO3 solution, dried (MgSO4) and the product isolated by evaporation. Distillation of the crude product gave MHPP (yield 88%).

reactant | methyl 2-(4'-trimethylsilyloxyphenyl)ethanoate | 34.3 mmole | C[Si](OC1=CC=C(C=C1)CC(=O)OC)(C)C | C12H18O3Si
reactant | methyliodide | 0.16 mole | CI | CH3I
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | Methyl 2-(4'-hydroxyphenyl)propanoate | yield 88% | OC1=CC=C(C=C1)C(C(=O)OC)C | C10H12O3
